US06936608B2
2-{7-[3-(3,5-Difluoropyridin-2-yl)-4-fluorophenyl]imidazo[1,2-b][1,2,4]triazin-3-yl}propan-2-ol
To 4-fluoro-3-(3,5-difluoropyridin-2-yl)phenylboronic acid (0.40 g) and 2-(7-bromoimidazo[1,2-b][1,2,4]triazin-3-yl)propan-2-ol (0.391 g) was added tetrahydrofuran (5 ml) and 2 N aqueous sodium carbonate (1.5 ml). Tetrakis(triphenylphosphine)palladium(0) (0.07 g) was added, the mixture was thoroughly degassed with nitrogen, and then stirred at 60° C. for 24 h. On cooling to room temperature, the reaction was partitioned between water and ethyl acetate. The organic extracts were evaporated, and the residue was subjected to chromatography (silica gel, 35% EtOAc/CH2Cl2). The product was crystallised from dichloromethane/isohexane, and the resulting pale yellow solid was collected by filtration and dried in vacuo at 60° C. to afford the title compound: 1H NMR (400 MHz, DMSO-d6) δ 1.56 (6H, s), 5.76 (1H, s), 7.58 (1H, dd, J 8.8, 10 Hz), 8.17 (1H, m), 8.29-8.36 (2H, m), 8.48 (1H, s), 8.74 (1H, d, J 2.3 Hz), 9.02 (1H, s); MS (ES+) m/z 386 [M+H]+.

reactant | 4-fluoro-3-(3,5-difluoropyridin-2-yl)phenylboronic acid | 0.40 g | FC1=C(C=C(C=C1)B(O)O)C1=NC=C(C=C1F)F | C11H7BF3NO2
reactant | 2-(7-bromoimidazo[1,2-b][1,2,4]triazin-3-yl)propan-2-ol | 0.391 g | BrC1=CN=C2N1N=CC(=N2)C(C)(C)O | C8H9BrN4O
reactant | sodium carbonate | 2 N, 1.5 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.07 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2-{7-[3-(3,5-Difluoropyridin-2-yl)-4-fluorophenyl]imidazo[1,2-b][1,2,4]triazin-3-yl}propan-2-ol | FC=1C(=NC=C(C1)F)C=1C=C(C=CC1F)C1=CN=C2N1N=CC(=N2)C(C)(C)O | C19H14F3N5O
